US04705853
7-Amino-2-[2-(dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione
To 7.0 g (0.023 mole) of 2-[2-(dimethylamino)ethyl]-2,3-dihydro-4-methyl-7-nitro-1,4-benzoxazepine-5(4H)-thione was added 250 ml of 23% ammonium sulfide in water. Ethyl alcohol was added in amount sufficient to dissolve the starting compound (~50-60 ml). The reaction mixture was heated to reflux for 5 hr. After cooling, the reaction mixture was acidified with concentrated aqueous hydrochloric acid. The ethanol was removed by rotary evaporation at 70° C. The remaining aqueous solution was washed with 3×100 ml of chloroform, filtered, cooled with ice and made slightly basic with sodium hydroxide. The aqueous was then extracted with 3×100 ml of chloroform, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue was crystallized from isopropyl alcohol to give 3.5 g (55%) of yellow analytically pure crystals.

reactant | 2-[2-(dimethylamino)ethyl]-2,3-dihydro-4-methyl-7-nitro-1,4-benzoxazepine-5(4H)-thione | 0.023 mole, 7.0 g | CN(CCC1OC2=C(C(N(C1)C)=S)C=C(C=C2)[N+](=O)[O-])C | C14H19N3O3S
reactant | ammonium sulfide | 250 ml | [NH4+]=S
reactant | Ethyl alcohol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 7-Amino-2-[2-(dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione | NC=1C=CC2=C(C(N(CC(O2)CCN(C)C)C)=S)C1 | C14H21N3OS
